US04282242
Following the procedure of Example 64, p-toluoyl chloride (3.09 g., 20 mmoles) and methyl pyrrole-3-carboxylate were reacted to form methyl 5-(4-methylbenzoyl)pyrrole-3-carboxylate (2.9 g., m.p. 155°-159° C., m/e 243).

reactant | p-toluoyl chloride | 20 mmoles, 3.09 g | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | methyl pyrrole-3-carboxylate | N1C=C(C=C1)C(=O)OC | C6H7NO2
product | methyl 5-(4-methylbenzoyl)pyrrole-3-carboxylate | 2.9 g | CC1=CC=C(C(=O)C2=CC(=CN2)C(=O)OC)C=C1 | C14H13NO3
